US07592337B2
Following the procedure described in EXAMPLE 1 for the synthesis of 1-methyl-3-[3-(5-pyridin-2-yl-2H-tetrazol-2-yl)phenyl]imidazolidin-2-one, but using 3-iodoaniline (11 g, 50 mmol) and pyridine-2-carboxaldehyde (4.7 mL, 50 mmol), 2-[2-(3-iodophenyl)-2H-tetrazol-5-yl]pyridine was obtained as a biege solid. 1H-NMR (CDCl3, 300 MH) δ NMR 8.92 (d, 1H), 8.69 (m, 1H), 8.44 (d, 1H), 8.30 (d, 1H), 8.03-8.06 (m, 1H), 7.87-7.88 (m, 1H), 7.56-7.59 (m, 1H), 7.32-7.35 (m, 1H).

reactant | 1-methyl-3-[3-(5-pyridin-2-yl-2H-tetrazol-2-yl)phenyl]imidazolidin-2-one | CN1C(N(CC1)C1=CC(=CC=C1)N1N=C(N=N1)C1=NC=CC=C1)=O | C16H15N7O
reactant | 3-iodoaniline | 50 mmol, 11 g | IC=1C=C(N)C=CC1 | C6H6IN
reactant | pyridine-2-carboxaldehyde | 50 mmol, 4.7 mL | N1=C(C=CC=C1)C=O | C6H5NO
product | 2-[2-(3-iodophenyl)-2H-tetrazol-5-yl]pyridine | IC=1C=C(C=CC1)N1N=C(N=N1)C1=NC=CC=C1 | C12H8IN5
